US08426604B2
1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde was prepared from 1H-Indazole-5-carbaldehyde and 1-bromomethyl-2,4-bis-trifluoromethyl-benzene following General Procedure A.

reactant | 1H-Indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | 1-bromomethyl-2,4-bis-trifluoromethyl-benzene | BrCC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
product | 1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=O)C=CC(=C1)C(F)(F)F)(F)F | C17H10F6N2O
